US07230031B2
To a solution of 1-[6-benzyloxy-3-(7-dibenzylamino-5-methylindan-4-yloxy)-2-methoxyphenyl]ethanone (13.3 g) in tetrahydrofuran (100 mL) was added dropwise a 1.14 mol/L solution of methyllithium in diethyl ether (30 mL) under an argon atmosphere at −78° C. The mixture was stirred for 30 min, and then warmed up to room temperature gradually. To the dark-red reaction mixture was added a saturated aqueous solution of ammonium chloride (40 mL). The reaction mixture was stirred for 10 min. The organic solvent was evaporated under reduced pressure to dryness. The residue was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to dryness to give 2-[6-benzyloxy-3-(7-dibenzylamino-5-methylindan-4-yloxy)-2-met hoxyphenyl]-propane-2-ol (13.9 g).

reactant | 1-[6-benzyloxy-3-(7-dibenzylamino-5-methylindan-4-yloxy)-2-methoxyphenyl]ethanone | 13.3 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1C(C)=O)OC)OC1=C2CCCC2=C(C=C1C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C40H39NO4
reactant | methyllithium | C[Li]
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 2-[6-benzyloxy-3-(7-dibenzylamino-5-methylindan-4-yloxy)-2-met hoxyphenyl]-propane-2-ol | 13.9 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1C(C)(C)O)OC)OC1=C2CCCC2=C(C=C1C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C41H43NO4
